US09416229B2
Synthesis of Phenyl-Fluorene Monomer
1,2,4-trimellitic anhydride acid chloride (120 mmole) was dissolved in 60 mL of anhydrous THF. Fluorene-9-bisphenol (60 mmole) and pyridine (14.5 mL) were dissolved in another 100 mL of anhydrous THF, and then slowly and dropwise added into the 1,2,4-trimellitic anhydride acid chloride solution under nitrogen, and then completely reacted at 40° C. for 12 hours. The reaction result was filtered to remove the salt thereof, and the solvent of the filtrate was removed by a rotary evaporator to obtain a solid. The solid was washed with n-hexane and re-crystallized from acetic anhydride two times to obtain a white solid (yield=75%). The 1H NMR spectrum of the white solid is listed below: 1H NMR (CDCl3, 400 MHz, ppm): 8.77 (s, 2H), 8.69 (d, 2H), 8.14 (d, 2H), 7.82 (d, 2H), 7.43 (m, 4H). The above-mentioned reaction is represented as:

reactant | Fluorene-9-bisphenol | 60 mmole | C1=CC=C2C(=C1)C3=CC=CC=C3C2(C4=CC=C(C=C4)O)C5=CC=C(C=C5)O | C25H18O2
reactant | pyridine | 14.5 mL | N1=CC=CC=C1 | C5H5N
reactant | THF | 60 mL | C1CCOC1 | C4H8O
reactant | THF | 100 mL | C1CCOC1 | C4H8O
product | Phenyl-Fluorene | yield=75% | C1(=CC=CC=C1)C1=CC=CC=2C3=CC=CC=C3CC12 | C19H14
